US04801521
To the mixture of 133 g of bis(2-methoxyethyl)amine, 145 ml of concentrated HCl (36%) and 400 g of ice, 70 g of sodium nitrite dissolved in 250 ml of water was added dropwise slowly while keeping the reaction temperature at 10° C. or below, and then stirred for 2 hours at 10° C. or less and for further 2 hours at room temperature. 250 g of sodium chloride was added thereto, and the mixture was thrice extracted with 500 ml of ethyl acetate and dried with magnesium sulfate. After removing the solvent, the mixture was purified by a silica gel column by using the mixed solvent (hexane/ethyl acetate: 3/1) to obtain 85 g of bis(2-methoxyethyl)nitrosoamine.

reactant | bis(2-methoxyethyl)amine | 133 g | COCCNCCOC | C6H15NO2
reactant | HCl | 145 ml | Cl | ClH
reactant | sodium nitrite | 70 g | N(=O)[O-].[Na+]
reactant | sodium chloride | 250 g | [Cl-].[Na+]
solvent | water | 250 ml | O | H2O
product | bis(2-methoxyethyl)nitrosoamine | 85 g | COCCN(N=O)CCOC | C6H14N2O3
